* C:\Users\kuria\OneDrive - iiit-b\Courses-IIITB-General\Course-DigitalDesign\Moodle-Questions\Midterm-Lab-Exam\work_folder\testbench-fulladder.asc
V1 N001 0 5
V2 N006 0 0
C1 N005 0 1f
V3 N004 0 0
V4 N002 0 5
C2 N003 0 1f
XX1 N001 0 N002 N004 N006 N003 N005 full_adder

* block symbol definitions
.subckt full_adder vdd vss a b c_in s c_out
XX1 a b N001 vdd vss xor
XX2 N001 c_in s vdd vss xor
XX3 a b N003 vdd vss and
XX4 N001 c_in N002 vdd vss and
XX5 N002 N003 c_out vdd vss or
.ends full_adder

.subckt xor a b y vdd vss
XX3 a b N002 vdd vss nand
XX1 a N002 N001 vdd vss nand
XX2 N002 b N003 vdd vss nand
XX4 N001 N003 y vdd vss nand
.ends xor

.subckt and a b y vdd vss
XX1 a b N001 vdd vss nand
XX2 N001 y vdd vss not
.ends and

.subckt or a b y vdd vss
XX2 N001 y vdd vss not
XX1 a b N001 vdd vss nor
.model PMOS PMOS(Level=1 Vto=-1V Kp=100u)
.model NMOS NMOS(Level=1 Vto=1V Kp=100u)
.ends or

.subckt nand a b y vdd vss
M2 vdd a y N001 PMOS l=1u w=1u
M1 y a N003 vss NMOS l=1u w=1u
M3 vdd b y N002 PMOS l=1u w=1u
M4 N003 b vss N004 NMOS l=1u w=1u
.model PMOS PMOS(Level=1 Vto=-1V Kp=100u)
.model NMOS NMOS(Level=1 Vto=1V Kp=100u)
.ends nand

.subckt not a y vdd vss
M2 vdd a y N001 PMOS l=1u w=1u
M1 y a vss N002 NMOS l=1u w=1u
.model PMOS PMOS(Level=1 Vto=-1V Kp=100u)
.model NMOS NMOS(Level=1 Vto=1V Kp=100u)
.ends not

.subckt nor a b y vdd vss
M4 y b vss N004 NMOS l=1u w=1u
M5 vdd a N002 N001 PMOS l=1u w=1u
M6 N002 b y vdd PMOS l=1u w=1u
M7 y a vss N003 NMOS l=1u w=1u
.model PMOS PMOS(Level=1 Vto=-1V Kp=100u)
.model NMOS NMOS(Level=1 Vto=1V Kp=100u)
.ends nor

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\kuria\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1m
.backanno
.end
